US05968955
27) (±)2-[4-(p-Fluoro-benzoyl)-piperidin-1-yl]-1-(3-methoxy-isoxazol-5-yl)-ethan-1-ol
A solution of 3.5 g of 1-(3-methoxy-isoxazol-5-yl)-2-bromoethanol and 4.9 g of 4-(4'-fluorobenzoyl)piperidine and 5.4 ml of N-ethyldiisopropylamine in 160 ml of absolute ethanol was refluxed for 2 hours.

reactant | 1-(3-methoxy-isoxazol-5-yl)-2-bromoethanol | 3.5 g | COC1=NOC(=C1)C(CBr)O | C6H8BrNO3
reactant | 4-(4'-fluorobenzoyl)piperidine | 4.9 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | N-ethyldiisopropylamine | 5.4 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | (±)2-[4-(p-Fluoro-benzoyl)-piperidin-1-yl]-1-(3-methoxy-isoxazol-5-yl)-ethan-1-ol | FC1=CC=C(C(=O)C2CCN(CC2)CC(O)C2=CC(=NO2)OC)C=C1 | C18H21FN2O4
